US07282588B2
4-(1-ethyl-4-{2-[4-(1-pyrrolidinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)aniline
To a solution of 4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-2-[4-(1-pyrrolidinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridine (0.487 mmol) in glacial acetic acid (4 mL) was added zinc powder (3.41 mmol). After 1 h, the reaction was filtered and the zinc residue was rinsed with acetic acid. The filtrate was concentrated under reduced pressure and azeotroped five times with 1:1 methanol/toluene to remove residual acetic acid. The crude aniline was dissolved in methanol, treated with 6N NaOH (1.46 mmol) and heated to 70° C. After 5 h, the reaction mixture was concentrated under reduced pressure and the residue was suspended in cold water and stirred vigorously. The precipitate was collected by filtration and dried to constant weight under high vacuum to give title compound. ESMS [M+H]+: 463.4

reactant | 4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-2-[4-(1-pyrrolidinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridine | 0.487 mmol | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)N(C(=C2)C2=CC=C(C=C2)CN2CCCC2)S(=O)(=O)C2=CC=CC=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C35H32N6O4S
reactant | NaOH | 1.46 mmol, 6N | [OH-].[Na+]
solvent | acetic acid | 4 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 3.41 mmol | [Zn] | Zn
product | 4-(1-ethyl-4-{2-[4-(1-pyrrolidinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)aniline | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC(=C2)C2=CC=C(C=C2)CN2CCCC2)C2=CC=C(N)C=C2 | C29H30N6
